US06890947B2
In analogy to the procedures described in examples 36a) and 36b), rac-2-ethoxy-3-(2-methyl-1H-indol-5-yl)-propionic acid ethyl ester (preparation 5) was reacted with 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole to give rac-2-ethoxy-3-{2-methyl-1-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethyl]-1H-indol-5-yl}-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as colorless oil.

reactant | rac-2-ethoxy-3-(2-methyl-1H-indol-5-yl)-propionic acid ethyl ester | C(C)OC(C(CC=1C=C2C=C(NC2=CC1)C)OCC)=O | C16H21NO3
reactant | 4-chloromethyl-5-methyl-2-(4-trifluoromethyl-phenyl)-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F | C12H9ClF3NO
product | rac-2-ethoxy-3-{2-methyl-1-[5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-ylmethyl]-1H-indol-5-yl}-propionic acid ethyl ester | C(C)OC(C(CC=1C=C2C=C(N(C2=CC1)CC=1N=C(OC1C)C1=CC=C(C=C1)C(F)(F)F)C)OCC)=O | C28H29F3N2O4
